US05516774
10,11-Dihydro-10-[4-[(3-methylpropyloxycarbonyl)amino]benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine
To a stirred solution of 0.15 g of 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine in 2 ml of methylene chloride is added 0.10 g of triethylamine followed by 0.10 g of iso-butylchloroformate. The reaction mixture is stirred for 3 hours and then quenched with 1N NaOH. The organic layer is evaporated in vacuo to a residue which is stirred in 5 ml of tetrahydrofuran for 1 hour, then evaporated in vacuo to a residue. The residue is extracted with ethyl acetate-methylene chloride, washed with brine, dried (Na2SO4), filtered through hydrous magnesium silicate and evaporated in vacuo to give a residue which is stirred with ethyl acetate-methylene chloride to give 0.22 g of cream colored solid. MS(CI): 404(M+H).

reactant | 10,11-dihydro-10-(4-aminobenzoyl)-5H-pyrrolo[2,1-c][1,4]benzodiazepine | 0.15 g | NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C19H17N3O
reactant | triethylamine | 0.10 g | C(C)N(CC)CC | C6H15N
reactant | iso-butylchloroformate | 0.10 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ethyl acetate methylene chloride | C(C)(=O)OCC.C(Cl)Cl
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 10,11-Dihydro-10-[4-[(3-methylpropyloxycarbonyl)amino]benzoyl]-5H-pyrrolo[2,1-c][1,4]benzodiazepine | CCCCOC(=O)NC1=CC=C(C(=O)N2CC=3N(CC4=C2C=CC=C4)C=CC3)C=C1 | C24H25N3O3
